US08350034B2
tert-Butyl (4S)-5-{[tert-butyl(dimethyl)silyl]oxy}-4-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]pentylcarbamate (1.28 g, 2.40 mmol) was dissolved in 200 mL of CH2Cl2 and the solution was cooled to −78° C. under N2. A 1.0 M solution of tetrabutylammonium fluoride in THF (2.88 mL) was added and the reaction mixture was allowed to warm to ambient temperature. After 4 days, the reaction mixture was then treated with 50 mL of saturated sodium bicarbonate solution. The layers were separated and the organic portion was washed with H2O (50 mL) and brine (4×25 mL). The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. Chromatography (SiO2, 4% methanol/CHCl3) gave tert-butyl 3-[(11S)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propylcarbamate (820 mg) as a light yellow foam.

reactant | tert-Butyl (4S)-5-{[tert-butyl(dimethyl)silyl]oxy}-4-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]pentylcarbamate | 2.40 mmol, 1.28 g | [Si](C)(C)(C(C)(C)C)OC[C@H](CCCNC(OC(C)(C)C)=O)N1C(=NC=2C=NC=3C=CC=CC3C21)CCl | C27H41ClN4O3Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 2.88 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-[(11S)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propylcarbamate | 820 mg | C1=C2C3=C(C=NC2=CC=C1)N=C1N3[C@H](COC1)CCCNC(OC(C)(C)C)=O | C21H26N4O3
